US09340546B2
isopropyl (NE)-N-isopropoxycarbonyliminocarbamate (723.1 mg, 3.576 mmol) was added dropwise to a solution of 1-(3-chloro-5-fluoro-4-pyridyl)piperidin-4-ol (750 mg, 3.251 mmol) and Triphenylphosphine (937.9 mg, 828.5 μL, 3.576 mmol) in THF at −20° C. After stirring for 15 mins, ethanethioic S-acid (272.2 mg, 255.6 μL, 3.576 mmol) was added, the mixture was allowed to warm to room temperature and was stirred for a further 30 minutes. The mixture was then diluted with ethylacetate (30 ml), washed twice with water (20 ml) and with brine. The organic layer was dried with MgSO4 and concentrated in vacuo to a yellow solid that was purified by column chromatography eluting with 5/95 ether/pet ether to elute side products and then 10/90 ether/pet ether. The relevant fractions were combined and concentrated in vacuo to afford S-(1-(3-chloro-5-fluoropyridin-4-yl)piperidin-4-yl) ethanethioate as a green solid. MS (ES+) 289.0.

reactant | isopropyl (NE)-N-isopropoxycarbonyliminocarbamate | 3.576 mmol, 723.1 mg | C(C)(C)OC(=O)\N=N\C(OC(C)C)=O | C8H14N2O4
reactant | 1-(3-chloro-5-fluoro-4-pyridyl)piperidin-4-ol | 3.251 mmol, 750 mg | ClC=1C=NC=C(C1N1CCC(CC1)O)F | C10H12ClFN2O
reactant | Triphenylphosphine | 3.576 mmol, 828.5 μL, 937.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethanethioic S-acid | 3.576 mmol, 255.6 μL, 272.2 mg | C(C)(S)=O | C2H4OS
solvent | THF | C1CCOC1 | C4H8O
solvent | ethylacetate | 30 ml | C(C)OC(C)=O | C4H8O2
product | S-(1-(3-chloro-5-fluoropyridin-4-yl)piperidin-4-yl) ethanethioate | C(C)(SC1CCN(CC1)C1=C(C=NC=C1F)Cl)=O | C12H14ClFN2OS
